US04797391
[(5,6-Dichloro-3,9-dioxo-9a-propyl-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]acetamide (3.65 g, 10 mMole) is dissolved in pyridine (25 ml) and N,N'-dicyclohexylcarbodiimide (2.17 g, 10.5 mMole) in pyridine (15 ml) is added portionwise over 30 minutes with stirring at 15°-20° C. The mixture is then stirred at ambient temperature for 3 hours. The precipitated dicyclohexylurea is removed by filtration and the pyridine removed from the filtrate by evaporation in vacuo. Addition of water to the residue gives the product which is dissolved in methylene chloride, dried over MgSO4 and the solvent removed to provide the [(5,6-dichloro-3,9-dioxo-9a-propyl-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]acetonitrile.

reactant | [(5,6-Dichloro-3,9-dioxo-9a-propyl-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]acetamide | 10 mMole, 3.65 g | ClC1=C2C3=CC(CCC3(C(C2=CC(=C1Cl)OCC(=O)N)=O)CCC)=O | C18H17Cl2NO4
reactant | N,N'-dicyclohexylcarbodiimide | 10.5 mMole, 2.17 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | [(5,6-dichloro-3,9-dioxo-9a-propyl-2,3,9,9a-tetrahydro-1H-fluoren-7-yl)oxy]acetonitrile | ClC1=C2C3=CC(CCC3(C(C2=CC(=C1Cl)OCC#N)=O)CCC)=O | C18H15Cl2NO3
